US06528525B1
(d) Ethyl 2-butyl-3-[4-[2-(3′-dimethoxymethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionate
In a similar manner to that described in Example 5, a reaction was carried out using ethyl 3-[4-(2-aminoethoxy)phenyl]-2-butylpropionate (1.55 g), which is the product of Reference example 6, 3′-dimethoxymethylbiphenyl-4-carboxylic acid (1.44 g), which is the product of reference example 14(c), and carbonyldiimidazole (1.03 g) and the reaction mixture was treated to afford the desired compound (2.72 g) as a syrup.

reactant | ethyl 3-[4-(2-aminoethoxy)phenyl]-2-butylpropionate | 1.55 g | NCCOC1=CC=C(C=C1)CC(C(=O)OCC)CCCC | C17H27NO3
reactant | 6, 3′-dimethoxymethylbiphenyl-4-carboxylic acid | 1.44 g | COCC1=CC(=CC=C1C1=CC(=CC=C1)COC)C(=O)O | C17H18O4
reactant | carbonyldiimidazole | 1.03 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | Ethyl 2-butyl-3-[4-[2-(3′-dimethoxymethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionate | 2.72 g | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)C(OC)OC | C33H41NO6
